US05395824
Preparation of N-Benzyloxycarbonyl-L-leucine-[1-(2-ethoxycarbonylacetyl)]pentylamide
In 10 ml of anhydrous THF was dissolved 1.3 g of N-benzyloxycarbonyl-L-leucyl-L-norleucine prepared in the same manner as in Example 1-(b), and 680 mg of carbodiimidazole was added thereto, followed by refluxing for 2 hours. The reaction mixture was cooled to -78° C., and 6.1 ml of a 2M lithium diisopropylamide solution in hexane and 1.05 ml of anhydrous ethyl acetate were added thereto, followed by stirring for 30 minutes. After completion of the reaction, the reaction mixture was poured into a saturated ammonium chloride aqueous solution and extracted with ethyl acetate. The organlc layer was washed with a saturated brine and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by medium-pressure column chromatography on silica gel to obtain 540 mg of the titled compound as a yellow solid.

reactant | N-benzyloxycarbonyl-L-leucyl-L-norleucine | 1.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCC)C(=O)O | C20H30N2O5
reactant | carbodiimidazole | 680 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | lithium diisopropylamide | 2M | C(C)(C)[N-]C(C)C.[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | 1.05 ml | C(C)(=O)OCC | C4H8O2
product | N-Benzyloxycarbonyl-L-leucine-[1-(2-ethoxycarbonylacetyl)]pentylamide | 540 mg | C(C)OC(=O)CC(=O)C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C24H36N2O6
